US09371320B2
4-((1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)amino)benzenesulfonamide
To a solution of 1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate (150 mg) obtained in Step C of Example 12 in toluene (20 ml) were added 4-aminobenzenesulfonamide (212 mg), tris(dibenzylideneacetone)dipalladium (37.6 mg), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine)(47.5 mg) and cesium carbonate (669 mg), and the mixture was heated overnight with reflux under nitrogen atmosphere. The reaction mixture was partitioned between water and ethyl acetate, and the organic layer was washed successively with hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give a residue (105 mg) containing 4-((1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)amino)benzenesulfonamide. To a solution of the obtained residue (102 mg) in acetonitrile (10 mL) were added sodium iodide (64.8 mg) and chloro(trimethyl)silane (0.219 mL), and the mixture was stirred at 60° C. for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was washed successively with water and ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained solid was washed with ethyl acetate/diisopropyl ether to give the title compound (68.1 mg).

reactant | 4-((1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)amino)benzenesulfonamide | C1(CCCC1)N1N=C(C=2C(=NC=CC21)OC)NC2=CC=C(C=C2)S(=O)(=O)N | C18H21N5O3S
reactant | sodium iodide | 64.8 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.219 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-((1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)amino)benzenesulfonamide | 68.1 mg | C1(CCCC1)N1N=C(C=2C(NC=CC21)=O)NC2=CC=C(C=C2)S(=O)(=O)N | C17H19N5O3S
